US07015218B1
1-(4-Chlorophenyl)-N-(3-cyano-4-[4-(N-(2-hydroxyethyl)amino)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide
The reaction and treatment in the same manner as in Example 150 were conducted using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (1.19 g) and 5-amino-2-[4-(N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino)piperidin-1-yl]benzonitrile and the resulting mixture was further stirred in trifluoroacetic acid (10 ml) under ice-cooling for 1 h. The reaction mixture was treated with aqueous sodium hydroxide solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized from ethanol to give the title compound (0.29 g), melting point: 181° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 1.19 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-[4-(N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino)piperidin-1-yl]benzonitrile | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N(CCO)C(=O)OC(C)(C)C | C19H28N4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-Chlorophenyl)-N-(3-cyano-4-[4-(N-(2-hydroxyethyl)amino)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide | 0.29 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)NCCO)C#N | C25H27ClN6O2
